US04573062
Subsequently, a 100 ml four-necked flask equipped with a condenser tube and a thermometer was charged with 15.6 g of benzyl p-(p-acetoxybenzoyloxy)benzoate, 30 g of 5% sodium hydroxide and 50 ml of tetrahydrofuran, and they were reacted at 30° C. for 5 hours. The reaction product was extracted with 50 ml of toluene. The extract was washed with water, and toluene was evaporated. The residue was separated on a column to give benzyl p-(p-hydroxybenzoyloxy)benzoate as white crystals having a melting point of 137° to 138.5° C.

reactant | benzyl p-(p-acetoxybenzoyloxy)benzoate | 15.6 g | C(C)(=O)OC1=CC=C(C(=O)OC2=CC=C(C(=O)OCC3=CC=CC=C3)C=C2)C=C1 | C23H18O6
reactant | sodium hydroxide | 30 g | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | benzyl p-(p-hydroxybenzoyloxy)benzoate | OC1=CC=C(C(=O)OC2=CC=C(C(=O)OCC3=CC=CC=C3)C=C2)C=C1 | C21H16O5
